US04643849
With 5 ml of ethanol were mixed 1 g of N-cyano-N'-{2-[(5-methyl-4-imidazolyl)methylthio]ethyl}-S-methylisothiourea and 2.6 g of DL-β-hydroxyphenethylamine, and the resulting mixture was subjected to reaction under reflux for 5 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the oily substance thus obtained was washed with 20 ml of diethyl ether and then purified by a column chromatography (Wako Silica Gel C-200, eluent; chloroform:methanol=10:1 by volume) to obtain 0.27 g (yield 20%) of amorphous N-cyano-N'-(β-hydroxyphenethyl)-N"-{2-[(5-methyl-4-imidazolyl)methylthio]ethyl}guanidine.

reactant | N-cyano-N'-{2-[(5-methyl-4-imidazolyl)methylthio]ethyl}-S-methylisothiourea | 1 g | C(#N)NC(SC)=NCCSCC=1N=CNC1C | C10H15N5S2
reactant | DL-β-hydroxyphenethylamine | 2.6 g | C1=CC=C(C=C1)C(CN)O | C8H11NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-cyano-N'-(β-hydroxyphenethyl)-N"-{2-[(5-methyl-4-imidazolyl)methylthio]ethyl}guanidine | 0.27 g, yield 20% | C(#N)NC(=NCCSCC=1N=CNC1C)NCC(C1=CC=CC=C1)O | C17H22N6OS
